Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins / Erythromycin Base / Streptomycin / Citric Acid / 
Atenolol / Torsemide / Heparin Agents
 
Attending: ___
 
Chief Complaint:
Bacteremia/ Bleeding from G tube site 

 
Major Surgical or Invasive Procedure:
Endoscopy x3: Performed by Dr. ___ on ___ and 
___

 
History of Present Illness:
___ year old male per omr with history of CAD s/p stenting, CHF 
(EF 55%), Afib, prior cardiac arrest and heart block s/p 
pacer/AICD placement, chronic trach, and recent MRSA bacteremia 
transitioned from vancomycin to daptomycin presenting from rehab 
facility with continued bacteremia and bleeding around G-tube 
site. 
.
Briefly patient was doing well until ___ when he suffered a 
fall that caused multiple fractures. He was hospitalized and 
intubated and subsequently trached. He was transferred to rehab 
where he spent a good deal of time with multiple readmissions 
for various infections and chronic GI Bleeds. In ___ was 
admitted to ___ for PNA and found to have MRSa bacteremia. Was 
dicharged on Vancomycin. Was readmitted later that month for a 
GI bleed. ___ was deferred ___ to family wishes and 
comorbidites. He was discharged again to ___. 
Surveilece cultures remained positive and he was readmitted for 
infectious work up. TTE, TEE and tagged WBC scan were all 
negative for ocult infectious source. On that admission he was 
diagnosed with concurrent Pseudomonas and Klebsiella UTI and 
treated with Meropenam. Given his persistent MRSA bacteremia he 
was switched from Vancomycin to daptomycin. 
.
Over the last several days he has been febrile with intermittent 
AMS. Blood cultures are persistently positive. Per notes form 
his PCP and discussions with the family, he is being admitted 
for evaluation for ICD lead explantation and for managment of 
fevers.
.
With regards to the bleedign at the G-tube site, the nursing 
staff at the rehabilitation facility noted oozing of blood from 
around the G-tube site. There was no bleeding at the lumen of 
the site. The patient remained normotensive. He remained normal 
mental status. The G-tube was clear and patent. There were no 
exacerbating or relieving factors. There was no known preceding 
trauma to the G-tube.
.
In the ED, initial VS were:  88 130/70   99% 15L
.
FAST positive but hemodynamic stable
CT abd non-con: simple fluid in the abdomen and pelvis, but no 
evidence for hematoma. left ventral wall hernia containing 
non-obstructed loops of bowel.   
.  
On arrival to the MICU, he was alert and cooperative and 
following commands.

 
Past Medical History:
Rectal cancer s/p excision and XRT (___)
CAD s/p stents (?___)
CVA in ___ with residual right hand dysthesia
Complete heart block s/p pacemaker 
H/o cardiac arrest (now with AICD) 
GI bleed secondary to angiectasias in the duodenum (___) s/p 
cauterization via EGD 
Atrial fibrillation, not on coumadin
Systolic CHF (EF 40-45%)  
S/p Fall with multiple rib fractures (___)  
MICU admission ___ for hemoptysis, bleeding from 
trach
Abdominoperineal resection ___ ___/ ___

 
Social History:
___
Family History:
Father died in ___ from ___. Mother died in ___ from PE. No 
family history of colon, breast, uterine, or ovarian cancer. No 
family history of seizures.
 
Physical Exam:
Admission Exam:
General: Alert, no acute distress  
HEENT: Trached NC AT  
Neck: trach in place
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Coarse bilateral breath sounds  
Abdomen: soft, non-tender, non-distended, bowel sounds present 
Ostomy in place 
GU: Foley in place 
Ext: WWP 3+ pitting edema to theknees with bilateral venous 
stasis changes. 

 
Pertinent Results:
___ 04:15PM   ___ PTT-38.5* ___
___ 04:15PM   PLT COUNT-110*
___ 04:15PM   NEUTS-82.7* LYMPHS-10.0* MONOS-6.5 EOS-0.5 
BASOS-0.2
___ 04:15PM   WBC-17.4*# RBC-3.50* HGB-9.7* HCT-30.0* 
MCV-86 MCH-27.6 MCHC-32.2 RDW-17.0*
___ 04:15PM   CALCIUM-8.4 PHOSPHATE-3.3# MAGNESIUM-1.9
___ 04:15PM   estGFR-Using this
___ 04:15PM   GLUCOSE-130* UREA N-88* CREAT-1.9* SODIUM-141 
POTASSIUM-3.9 CHLORIDE-104 TOTAL CO2-25 ANION GAP-16
___ 04:24PM   GLUCOSE-123* LACTATE-2.1* NA+-140 K+-3.7 
CL--105 TCO2-26
___ 04:24PM   COMMENTS-GREEN TOP
___ 07:14PM   TYPE-ART PO2-60* PCO2-34* PH-7.51* TOTAL 
CO2-28 BASE XS-3
___ 07:42PM URINE  WBCCLUMP-MOD MUCOUS-OCC
___ 07:42PM URINE  AMORPH-OCC
___ 07:42PM URINE  RBC-47* WBC->182* BACTERIA-MANY 
YEAST-FEW EPI-0
___ 07:42PM URINE  BLOOD-LG NITRITE-NEG PROTEIN-30 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-5.0 
LEUK-LG
___ 07:42PM URINE  COLOR-Red APPEAR-Cloudy SP ___
.
CT ABDDOMEN AND PELVIS Study Date of ___ 5:01 ___ 
MPRESSION: 
.  
1. Diffuse anasarca with small to moderate amount of ascites 
within the abdomen and pelvis, but no evidence for hemorrhage. 
2. Moderate bilateral pleural effusions which have increased 
since the most recent examination. Small pericardial effusion, 
increased. 
3. Cholelithiasis without evidence for cholecystitis. 
4. Parastomal hernia containing nonobstructed, nondilated loops 
of small bowel. 
5. Prostatic hypertrophy. 
6. 15-mm hyperdense left upper pole renal lesion which is 
unchanged and may represent a hemorrhagic cyst. This can be 
further assessed with MRI if clinically indicated (as prior 
renal ultrasound from ___ did not demonstrate any 
abnormality within this area). 
.  
The study and the report were reviewed by the staff radiologist. 

.
.  
EKG: AV paced at 70 
.
AP CHEST 1:43 P.M. ON ___. 
  
HISTORY: New right subclavian line. 
  
IMPRESSION: AP chest compared to ___ through ___ 
at 10:45 
a.m.: 
  
Tip of the new right subclavian line ends low in the SVC. There 
is no change 
in the small-to-moderate right pleural effusion and no 
pneumothorax or 
mediastinal widening to suggest complications of line insertion. 
Severe 
cardiomegaly is longstanding. Pulmonary vascular engorgement and 
bibasilar 
atelectasis are unchanged. Tracheostomy tube is midline. 
Transvenous right 
atrial and right ventricular pacer defibrillator leads are in 
their expected 
locations, unchanged. No pneumothorax. 
.
___ 1:18 am BLOOD CULTURE     Site: ARM
      Source: Venipuncture. 

   Blood Culture, Routine (Preliminary): 
      STAPH AUREUS COAG +.    FINAL SENSITIVITIES. 
         Oxacillin RESISTANT Staphylococci MUST be reported as 
also
         RESISTANT to other penicillins, cephalosporins, 
carbacephems,
         carbapenems, and beta-lactamase inhibitor combinations. 

         Rifampin should not be used alone for therapy. 
         Consultations with ID are recommended for all blood 
cultures
         positive for Staphylococcus aureus and ___ species. 

         VANCOMYCIN Sensitivity testing confirmed by Sensititre. 


                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             STAPH AUREUS COAG +
                             |   
CLINDAMYCIN-----------   =>8 R
ERYTHROMYCIN----------   =>8 R
GENTAMICIN------------     1 S
LEVOFLOXACIN----------   =>8 R
OXACILLIN-------------   =>4 R
RIFAMPIN-------------- <=0.5 S
TETRACYCLINE----------     2 S
TRIMETHOPRIM/SULFA---- <=0.5 S
VANCOMYCIN------------     2 S

   Anaerobic Bottle Gram Stain (Final ___: 
      Reported to and read back by ___. ___ ON ___ AT 
0515. 
      GRAM POSITIVE COCCI IN PAIRS AND CLUSTERS.
.
___ 3:45 am URINE      Source: Catheter. 

   URINE CULTURE (Preliminary): 
      KLEBSIELLA PNEUMONIAE.    >100,000 ORGANISMS/ML.. 
         Piperacillin/tazobactam sensitivity testing available 
on request. 
         Cefazolin interpretative criteria are based on a dosage 
regimen of
         2g every 8h. 
      PSEUDOMONAS AERUGINOSA.    10,000-100,000 ORGANISMS/ML.. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             KLEBSIELLA PNEUMONIAE
                             |          PSEUDOMONAS AERUGINOSA
                             |          |   
AMPICILLIN/SULBACTAM--  =>32 R
CEFAZOLIN-------------  =>64 R
CEFEPIME--------------   <=1 S       16 I
CEFTAZIDIME-----------  =>64 R        4 S
CEFTRIAXONE-----------    16 R
CIPROFLOXACIN---------   =>4 R      =>4 R
GENTAMICIN------------   <=1 S        8 I
MEROPENEM-------------<=0.25 S     =>16 R
NITROFURANTOIN-------- =>512 R
TOBRAMYCIN------------  =>16 R      <=1 S
TRIMETHOPRIM/SULFA----   <=1 S
 
Brief Hospital Course:
___ YOM with MMP most notable of which inclue persistent MRSA 
bacteremia of unknown source, recurrent MDR UTI's, PNA, chronic 
renal failure presented with fevers, MRSA bacteremia, UTI and 
UGIB. 
.
# Brief Hospital course: Patient was initially admitted for 
infectious w/u due to fevers, and was found to have MRSA 
bacteremia (chronic, likely ___ seeding of ICD), and 
Klebsiella/Pseudomonas UTI.  These were treated with IV 
vancomycin and meropenem.  He subsequently developed bleeding at 
his G-tube site as well as increased dark output from ostomy 
bag.  His hct trend was: 30 (___) -> 28 (___) -> 25 (___) 
-> 22 (___).  He was transfused 1 unit pRBC.  Hct ___ was 18 
and bleeding persisted.  GI and surgery were consulted.  He was 
given reglan, and started on ppi iv bid.  GI performed 3 EGDs 
that large amounts of blood and an ulcer with visible vessel 
around peg insertion site; An initial attempt at clipping the 
ulcer caused bright red blood, confirming that this was likely 
the cause of the patient's recent bleed. 10cc of epinephrine 
were injected around the ulcer. 2 clips were applied around the 
ulcer with hemostasis successfully achieved. The PEG was 
removed.  Because of his chronic MRSA bacteremia (thought likely 
___ ICD seeding), TPN was not an option and family felt that a 
feeding tube would cause him too much discomfort.  The 
palliative care team was consulted for assistance with the 
family's decision-making regarding goals of care.  The family 
ultimately felt that his current quality of life was not 
consistent with what he would have wanted based on remarks he 
had made in the past.  They elected to change his goals of care 
to comfort-measures only.  On HD#9 he passed away with family at 
bedside.  Family declined autopsy.
 
Medications on Admission:
Tylenol ___  q4h PRN
Acetylcysteine 100mg TID
Citalopram 20 mg QD
Daptomycin 500mg Q 48h
Docusate 100mg BID
Ferrous Sulfate 325mg QD
Lidocaine patch 
Metoprolol 12.5mg BIDSimethicone 80mg TID
Sucralfate 1 Gram TID with meals
Fentanyl patch 12 mcg Q 3Days (Last applied ___
Albuterol inhaler 2 puffs Q 6hours
Oxycodone 5mg QHS
COMPAZINE 5MG q 8 HOURS
Psyllium seed 1 tsp TID

 
Discharge Disposition:
Expired
 
Facility:
___
 
Discharge Diagnosis:
Anemia due to upper GI bleed
Bacteremia
Urinary tract infection

 
Discharge Condition:
Deceased

 
Discharge Instructions:
N/A
 
Followup Instructions:
___